US03971773
C. 21-Chloro-11β,17-dihydroxy-16α-[(2-methyloxiranyl)-methoxy]pregna-1,4-diene-3,20-dione
A solution of 21-chloro-11β,17-dihydroxy-16α-(2-methyl-2-propenyloxy)pregna-1.4-diene-3,20-dione (16 mmoles) in 300 ml of dichloromethane is stirred with 3.2 g of m-chloroperbenzoic acid for 3 hours. The solution is washed with a mixture of 5% sodium bicarbonate solution and 5% sodium sulfite solution, dried, and evaporated to give the title compound.

reactant | 21-chloro-11β,17-dihydroxy-16α-(2-methyl-2-propenyloxy)pregna-1.4-diene-3,20-dione | 16 mmoles | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCC(=C)C)O)=O | C25H33ClO5
reactant | m-chloroperbenzoic acid | 3.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 21-Chloro-11β,17-dihydroxy-16α-[(2-methyloxiranyl)-methoxy]pregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCC1(OC1)C)O)=O | C25H33ClO6
